US07723329B2
A solution of toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester (0.347 g, 0.734 mmol) and pyrrolidine (1.0 mL, 12 mmol) in THF (8 mL) was stirred at 70° C. in a sealed tube for 6 hours. After cooling somewhat, the reaction mixture was solvent evaporated and partitioned in ethyl acetate and aqueous sodium bicarbonate. The organic phase was then washed with water and brine, dried with anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by flash chromatography using 7.5% methanol in chloroform. After drying at 55° C. in vacuo, 3-benzenesulfonyl-5-(2-pyrrolidin-1-yl-ethoxy)-1H-indazole as a pale yellow solid (0.0595 g, 21.8%) was obtained. This was dissolved in methanol and chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried in vacuo at 75° C. for 16.5 hours to yield the hydrochloride as a yellow foam (0.0598 g). Mass Spectrum (+EI, [M+H]+) m/z 372.

reactant | toluene-4-sulfonic acid 2-(3-benzenesulfonyl-1H-indazol-5-yloxy)-ethyl ester | 0.734 mmol, 0.347 g | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C22H20N2O6S2
reactant | pyrrolidine | 12 mmol, 1.0 mL | N1CCCC1 | C4H9N
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 3-benzenesulfonyl-5-(2-pyrrolidin-1-yl-ethoxy)-1H-indazole | 0.0595 g, 21.8% | C1(=CC=CC=C1)S(=O)(=O)C1=NNC2=CC=C(C=C12)OCCN1CCCC1 | C19H21N3O3S
